US04883822
Synthesis of (±)-1,4a-dimethyl-4,4a,9,10-tetrahydro-2(3H)-phenanthrenone (Compound 3)
Potassium hydroxide in the amount of 2.24 g (40 mmol) was dissolved in 50 ml of 90 % methanol in 100-ml three-necked flask, and the obtained solution was then cooled with ice under agitation in a stream of nitrogen gas. A methanol solution (8 ml) containing 5.17 g (32 mmol) of 1-methyl-2-tetralone was added dropwisely to the above obtained solution over a period of 10 minutes. The reaction vessel was then cooled to -15° C., and 2.67 g (31 mmol) of ethyl vinyl ketone was added dropwisely to the reaction vessel. The temperature of the resulted mixture was brought to room temperature over a period of 4 hours under agitation in a stream of nitrogen gas. The mixture had been allowed to stand over night, and then the mixture was refluxed under heating for 3 hours in an atmosphere of nitrogen gas. After the temperature of the mixture had been brought to room temperature, the mixture was made acidic with hydrochloric acid and then extracted with ether. The ether layer was removed and washed with water, and then dried with sodium sulfate. The ether was distilled off to obtain 7.27 g of oily yellow residue. This residue was allowed to stand to obtain 5.54 g of crystals. These crystals were recrystallized twice from cyclohexane to obtain 3.95 g of colorless needle-like crystals.

reactant | Potassium hydroxide | [OH-].[K+]
reactant | 1-methyl-2-tetralone | 32 mmol, 5.17 g | CC1C(CCC2=CC=CC=C12)=O | C11H12O
reactant | ethyl vinyl ketone | 31 mmol, 2.67 g | C(=C)C(=O)CC | C5H8O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 8 ml | CO | CH4O
product | (±)-1,4a-dimethyl-4,4a,9,10-tetrahydro-2(3H)-phenanthrenone | 7.27 g | CC=1C(CCC2(C3=CC=CC=C3CCC12)C)=O | C16H18O
